US06503907B2
In analogy to example 9.1, Allyl-methyl-[4-(2-methyl-1H-indol-5-yloxy)-butyl]-amine and 1-Fluoro-4-trifluoromethyl-benzene were converted to yield Allyl-methyl-{4-[2-methyl-1-(4-trifluoromethyl-phenyl)-1H-indol-5-yloxy]-butyl}-amine as yellow viscous oil, MS: 417 (MH+).

reactant | Allyl-methyl-[4-(2-methyl-1H-indol-5-yloxy)-butyl]-amine | C(C=C)N(CCCCOC=1C=C2C=C(NC2=CC1)C)C | C17H24N2O
reactant | 1-Fluoro-4-trifluoromethyl-benzene | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
product | Allyl-methyl-{4-[2-methyl-1-(4-trifluoromethyl-phenyl)-1H-indol-5-yloxy]-butyl}-amine | C(C=C)N(CCCCOC=1C=C2C=C(N(C2=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C | C24H27F3N2O
